US05079260
2-[2-(1-Methylfluoren-9-yl)ethyl]-1.3-dioxolane
1-Methylfluorene (3.2 g, 18.0 mmol) in 50 mL THF was charged with BuLi, 2.35M solution in hexanes (7.65 mL, 18.0 mmol) at -78° C. The reaction mixture was stirred for 2 hr at -78° C. then 2-bromo-1.3-dioxolane (3.6 g, 19.8 mmol) was added by a syringe. The reaction was monitored by TLC (silica, 10% ethyl acetate/hexane). The reaction mixture was stirred for 2 hr at room temperature then the THF was evaporated. The residue was dissolved in ethyl acetate. The solution was washed with water, dried over magnesium sulfate, treated with a coarse silica gel and Norit and evaporated to yield 4.8 g (96.6%) of the desired product.

reactant | 1-Methylfluorene | 18.0 mmol, 3.2 g | CC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12
reactant | BuLi | [Li]CCCC
reactant | 2-bromo-1.3-dioxolane | 19.8 mmol, 3.6 g | BrC1OCCO1 | C3H5BrO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[2-(1-Methylfluoren-9-yl)ethyl]-1.3-dioxolane | 4.8 g, 96.6% | CC1=CC=CC=2C3=CC=CC=C3C(C12)CCC1OCCO1 | C19H20O2
